* C:\Users\jakob\Desktop\P7---Bsc\DAC_FILTER\Draft2.asc
XU1 N010 N015 VCC VEE N012 level3a Avol=10000 GBW=80Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=30 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V1 VCC 0 5
V2 VEE 0 -5
G1 0 N016 N014 N016 1.171875
R1 N014 N016 512
C1 N014 N016 748p
C2 N014 0 8p
R2 N014 N013 102.4
V3 N010 N015 AC 1
C3 N019 0 150p
R4 N018 N017 1
R5 N019 N018 0.01
R6 N013 N012 2
R7 N013 0 165
R3 N011 N016 5
R8 N017 N011 20
XU2 N001 N006 VCC VEE N003 level3a Avol=10000 GBW=80Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=30 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
G2 0 N007 N005 N007 1.171875
R13 N005 N007 512
C5 N005 N007 748p
C6 N005 0 8p
R14 N005 N004 102.4
V4 N001 N006 AC 1
C7 N009 0 150p
R15 NC_01 N008 1
R16 N009 NC_02 0.01
R17 N004 N003 2
R18 N004 0 165
R19 N002 N007 5
R20 N008 N002 20
C4 N026 0 150p
R9 N025 N024 1
R10 N026 N025 0.01
R11 N023 N022 5
R12 N024 N023 20
R21 N022 N020 512
C8 N022 N020 748p
R22 N020 N021 102
V5 N021 0 AC 1
.ac dec 1000 100 100E6
.lib UniversalOpAmp3a.lib
.backanno
.end
