* C:\EIT GIT\P7---Bsc\PCB\Draft1.asc
R1 N002 N001 1k
L1 N003 N002 115.05µ
C1 N003 0 99.76p
L2 N004 N003 169.28µ
C2 N004 0 67.8p
R2 N004 0 1696.7
V1 N001 0 AC 1
.ac dec 1000 1 10Meg
.backanno
.end
