* C:\EIT GIT\P7---Bsc\PCB\Simulering af universal opamp.asc
V1 0 -5 5
V2 +5 0 +5
XU1 N005 N003 +5 -5 N004 level3a Avol=1.259Meg GBW=38Meg Slew=22Meg Ilimit=25m Rail=0 Vos=0 Phimargin=56 En=0 Enk=0 In=0 Ink=0 Rin=1Meg
R1 NC_01 N004 1k
V3 N005 N003 AC 1
XU2 N008 N001 +5 0 N006 level3a Avol=1.259Meg GBW=38Meg Slew=22Meg Ilimit=25m Rail=0 Vos=0 Phimargin=56 En=0 Enk=0 In=0 Ink=0 Rin=1Meg
R2 N002 N006 1k
R3 N008 N009 10k
R4 N008 N007 10k
XU3 N011 N009 +5 0 N009 level3a Avol=1.259Meg GBW=38Meg Slew=22Meg Ilimit=25m Rail=0 Vos=0 Phimargin=56 En=0 Enk=0 In=0 Ink=0 Rin=1Meg
V4 N011 0 2.5
V5 N007 0 AC 1
R5 N002 0 5Meg
C1 N002 0 1.5p
R7 N002 N001 1k
R8 N001 0 1k
C2 N008 0 2p2
R6 N010 N012 10k
R9 N012 N013 10k
C3 N012 0 2p2
V7 N010 0 AC 1
R10 N013 0 1k
C4 N012 0 2.5p
C5 N008 0 2p5
.ac dec 1000 1 100Meg
.lib UniversalOpAmp3a.lib
.backanno
.end
