* C:\EIT GIT\P7---Bsc\PCB\ADC\Simulering af summation med LT1819.asc
V1 0 -5 5
V2 +5 0 +5
XU1 N006 N003 +5 -5 N004 level3a Avol=1.259Meg GBW=38Meg Slew=22Meg Ilimit=25m Rail=0 Vos=0 Phimargin=56 En=0 Enk=0 In=0 Ink=0 Rin=1Meg
R1 NC_01 N004 1k
V3 N006 N003 AC 1
XU2 N010 N001 +5 0 N008 level3a Avol=2371 GBW=360Meg Slew=2250Meg Ilimit=70m Rail=0 Vos=0 Phimargin=35 En=0 Enk=0 In=0 Ink=0 Rin=1Meg
R3 N010 N011 10k
R4 N010 N009 10k
XU3 N013 N011 +5 0 N011 level3a Avol=1.259Meg GBW=38Meg Slew=22Meg Ilimit=25m Rail=0 Vos=0 Phimargin=56 En=0 Enk=0 In=0 Ink=0 Rin=1Meg
V4 N013 0 2.5
V5 N009 0 AC 1
R5 N002 0 5Meg
C1 N002 0 1.5p
R7 N002 N001 1k
R8 N001 0 1k
C2 NC_02 0 2p2
R6 N012 N014 10k
R9 N014 N015 10k
C3 N014 0 2p2
V7 N012 0 AC 1
R10 N015 0 1k
C4 N014 0 2.5p
C5 NC_03 0 2p5
XU4 N007 0 +5 -5 N005 level3a Avol=2371 GBW=360Meg Slew=2250Meg Ilimit=70m Rail=0 Vos=0 Phimargin=35 En=0 Enk=0 In=0 Ink=0 Rin=1Meg
V6 0 N007 AC 1
R11 NC_04 N005 20
R2 N002 N008 20
.ac dec 1000 1 100Meg
.lib UniversalOpAmp3a.lib
.backanno
.end
