* F:\Git Projects\EIT\P7---Bsc\PCB\ImpedanceAnalyzer\ADC Stuff\Draft1.asc
V1 N001 0 AC 1
L1 N001 N002 9.85µ
C1 N002 0 9.41n
L2 N002 N003 9.85µ
C2 N003 0 9.41n
L3 N003 N004 1.35m
C3 N004 0 5.42n
R1 N004 0 5
.ac dec 1000 0.1 1Meg
.backanno
.end
