* C:\Users\jakob\Desktop\P7---Bsc\SIM\Draft1.asc
R1 N002 0 10
C1 N002 0 1µ
R2 N001 N002 0.0001
R3 N001 N003 0.0001
R4 N003 N004 9.96
C2 N004 0 254µ
V1 N001 0 AC 1
.ac dec 1000 1 10E6
.backanno
.end
