* C:\EIT GIT\P7---Bsc\Skrald\Unstabil OPA2277\LTSPice.asc
V1 +5V 0 15
V2 0 -5V 15
V3 N009 0 SINE() AC 1
R1 N006 N005 25
R2 0 N010 10E13
C1 0 N009 3p
XU2 N009 0 +5V -5V N005 level3a Avol=5.0119Meg GBW=1Meg Slew=0.8Meg Ilimit=25m Rail=0 Vos=0 Phimargin=60 En=0 Enk=0 In=0 Ink=0 Rin=100Meg
C2 N010 0 20µ
C3 N010 0 2.5p
L1 N006 P001 0.00023684
R3 N010 P001 775m
V6 N004 0 SINE() AC 1
R4 N001 N003 25
R5 0 N002 10E13
C4 0 N004 3p
XU1 N004 0 +5V -5V N003 level3a Avol=5.0119Meg GBW=1Meg Slew=0.8Meg Ilimit=25m Rail=0 Vos=0 Phimargin=60 En=0 Enk=0 In=0 Ink=0 Rin=100Meg
C5 N002 0 20µ
C6 N002 0 2.5p
C7 N002 N001 1µ
R6 N002 N001 1k
V4 N007 0 SINE() AC 1
C8 N008 N007 1µ
R7 N008 N007 1k
R8 N008 0 10k
V5 N017 0 SINE() AC 1
R9 N011 N015 25
R10 0 N011 10E13
C9 0 N017 3p
XU3 N017 0 +5V -5V N015 level3a Avol=5.0119Meg GBW=1Meg Slew=0.8Meg Ilimit=25m Rail=0 Vos=0 Phimargin=60 En=0 Enk=0 In=0 Ink=0 Rin=100Meg
C10 N011 0 20µ
C11 N011 0 2.5p
L2 N011 P002 0.00023684
R11 0 P002 10
V7 N016 0 SINE() AC 1
R12 N013 N012 25
R13 0 N018 10E13
C12 0 N016 3p
XU4 N016 0 +5V -5V N012 level3a Avol=5.0119Meg GBW=1Meg Slew=0.8Meg Ilimit=25m Rail=0 Vos=0 Phimargin=60 En=0 Enk=0 In=0 Ink=0 Rin=100Meg
C14 N018 0 2.5p
C13 N014 0 20µ
V8 N021 0 SINE() AC 1
R14 N020 N019 25
R15 0 N020 10E13
C15 0 N021 3p
XU5 N021 0 +5V -5V N019 level3a Avol=5.0119Meg GBW=1Meg Slew=0.8Meg Ilimit=25m Rail=0 Vos=0 Phimargin=60 En=0 Enk=0 In=0 Ink=0 Rin=100Meg
C16 N020 0 2.5p
R16 N014 N013 1
V9 N025 0 SINE() AC 1
R17 N023 N022 80
R18 0 N026 10E13
C17 0 N025 3p
XU6 N025 0 +5V -5V N022 level3a Avol=0.316230Meg GBW=10Meg Slew=35Meg Ilimit=25m Rail=0 Vos=0 Phimargin=56 En=0 Enk=0 In=0 Ink=0 Rin=100Meg
C18 N026 0 2.5p
C19 N024 0 5n6
R19 N024 N023 10
* .tran 0 1m 0 1u
.ac dec 1000 0.001 10Meg
.lib UniversalOpAmp3a.lib
.backanno
.end
